US03987047
5-Dimethylamino-1,2,4,5-tetrahydro-11-methyl-3-azepino[4,5-b]quinoline-carboxylic acid ethyl ester dihydrochloride was prepared from 5-chloro-1,2,4,5-tetrahydro-11-methyl-3-azepino[4,5-b]quinoline-carboxylic acid ethyl ester and dimethylamine analogous to Example 173.

reactant | 5-chloro-1,2,4,5-tetrahydro-11-methyl-3-azepino[4,5-b]quinoline-carboxylic acid ethyl ester | C(C)OC(=O)N1CC(C2=NC=3C=CC=CC3C(=C2CC1)C)Cl | C17H19ClN2O2
reactant | dimethylamine | CNC | C2H7N
product | 5-Dimethylamino-1,2,4,5-tetrahydro-11-methyl-3-azepino[4,5-b]quinoline-carboxylic acid ethyl ester dihydrochloride | Yield: 77% | Cl.Cl.C(C)OC(=O)N1CC(C2=NC=3C=CC=CC3C(=C2CC1)C)N(C)C | InChI=1S/C19H25N3O2.2ClH/c1-5-24-19(23)22-11-10-15-13(2)14-8-6-7-9-16(14)20-18(15)17(12-22)21(3)4;;/h6-9,17H,5,10-12H2,1-4H3;2*1H
